US04304784
In dry dimethylformamide, 0.5 g of 4-bromo-2,3-dihydrobenzo[b]thiepin-5(4H)-one, 0.6 g of silver tosylate and 0.2 g of lithium carbonate are heated under reflux for 12 hours, at the end of which time the reaction mixture is poured in ice-water. The resultant crystals are recovered by filtration and dried. This crude product is purified by thin-layer chromatography on silica gel (solvent system: benzene-n-hexane=1:3). The crude crystals thus obtained are recrystallized from methylene chloride-n-hexane. By the above procedure there is obtained 3-oxo-2,3-dihydro[1]-benzothiophene-2-spirocyclopropane as colorless prisms melting at 70° C.

reactant | 4-bromo-2,3-dihydrobenzo[b]thiepin-5(4H)-one | 0.5 g | BrC1C(C2=C(SCC1)C=CC=C2)=O | C10H9BrOS
reactant | lithium carbonate | 0.2 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | silver tosylate | 0.6 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[Ag+]
product | 3-oxo-2,3-dihydro[1]-benzothiophene-2-spirocyclopropane | O=C1C2=C(SC13CC3)C=CC=C2 | C10H8OS
